US07855194B2
[5-(4-Methoxy-phenyl)-pyrimidin-2-yl]-piperidin-4-yl-amine dihydrochloride
To a solution of 4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.55 g, 1.43 mmol) in ethanol (10 mL) was added 4 M HCl in dioxane (10 mL) and the reaction mixture stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 285.5 [M+H]+.

reactant | 4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.43 mmol, 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC | C21H28N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [5-(4-Methoxy-phenyl)-pyrimidin-2-yl]-piperidin-4-yl-amine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)C=1C=NC(=NC1)NC1CCNCC1 | InChI=1S/C16H20N4O.2ClH/c1-21-15-4-2-12(3-5-15)13-10-18-16(19-11-13)20-14-6-8-17-9-7-14;;/h2-5,10-11,14,17H,6-9H2,1H3,(H,18,19,20);2*1H
